US06518303B2
To a solution of 3,4-dichlorophenylacetophenone (5.3 g; 20 mmoles) in glacial acetic acid (90 ml), polyphosphoric acid (64 g) was added and the resulting solution heated at 140° C. or 24 hours. After cooling, the reaction mixture was poured into ice-water, extracted with ethyl acetate (3×75 ml), the organic solution dried (Na2SO4) and the solvent removed under reduced pressure. The obtained residue was purified by column chromatography with silica gel and n-hexane-ethyl acetate 3:2 as eluent. 3-(3,4-dichlorophenyl)-2-phenyl-6-methylpyran-4-one (1.68 g) was obtained, m.p. 104° C.

reactant | 3,4-dichlorophenylacetophenone | 20 mmoles, 5.3 g | ClC=1C=C(C=CC1Cl)CC(=O)C1=CC=CC=C1 | C14H10Cl2O
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | 3-(3,4-dichlorophenyl)-2-phenyl-6-methylpyran-4-one | 1.68 g | ClC=1C=C(C=CC1Cl)C1=C(OC(=CC1=O)C)C1=CC=CC=C1 | C18H12Cl2O2
